US05426227
reacting 5-hydroxy-3,4-dihydro-1(2H)-naphthalenone with (R)-(-)-epichlorhydrine, in an aprotic solvent in the presence of a strong base at a temperature of over 90° C., to give the intermediate chiral oxirane (S)-5-(2,3-epoxypropoxy)-3,4-dihydro-1(2H)-naphthalenone with an optical purity greater than 95%, and then,

reactant | 5-hydroxy-3,4-dihydro-1(2H)-naphthalenone | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | (R)-(-)-epichlorhydrine | C(Cl)[C@H]1CO1 | C3H5ClO
product | oxirane (S)-5-(2,3-epoxypropoxy)-3,4-dihydro-1(2H)-naphthalenone | O1[C@H](COC2=C3CCCC(C3=CC=C2)=O)C1.O1CC1 | InChI=1S/C13H14O3.C2H4O/c14-12-5-1-4-11-10(12)3-2-6-13(11)16-8-9-7-15-9;1-2-3-1/h2-3,6,9H,1,4-5,7-8H2;1-2H2/t9-;/m0./s1
